US07737166B2
N-(4-Fluoro-2-methylphenyl)acetamide (I-259)
Acetic anhydride (17.7 ml, 0.19 mol) was dropwise added to 4-fluoro-2-methylaniline (234 g, 0.19 mol). The solidified reaction mixture was dissolved in chloroform, washed with an aqueous saturated sodium hydrogencarbonate solution and saturated brine, then dried over anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the residue was dried with a vacuum pump to obtain the entitled compound (31.7 g, 99%) as a pale red solid.

reactant | Acetic anhydride | 0.19 mol, 17.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-fluoro-2-methylaniline | 0.19 mol, 234 g | FC1=CC(=C(N)C=C1)C | C7H8FN
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(4-Fluoro-2-methylphenyl)acetamide | 31.7 g, 99% | FC1=CC(=C(C=C1)NC(C)=O)C | C9H10FNO
